US05149700
Step 2) Preparation of 2-[N-(2-Aminoethyl)amino]-1-methyl-1H-benzimidazole
A mixture of N-[2-[(1-methyl-1H-benzimidazol-2-yl)amino]ethyl]acetamide (2.32 g, 9.98 mmol), 2N HCl (20 mL), and MeOH (20 mL) was heated under reflux for 20 hours. The mixture was concentrated, diluted with H2O, made basic (pH9) with 2.5N NaOH, and extracted with EtOAc. The combined extracts were dried and concentrated to give a brown oil. Purification by flash chromatography (eluent 10% MeOH/CH2Cl2) gave a yellow oil 1.47 g (77%).

reactant | N-[2-[(1-methyl-1H-benzimidazol-2-yl)amino]ethyl]acetamide | 9.98 mmol, 2.32 g | CN1C(=NC2=C1C=CC=C2)NCCNC(C)=O | C12H16N4O
reactant | HCl | 2N, 20 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 2-[N-(2-Aminoethyl)amino]-1-methyl-1H-benzimidazole | 1.47 g, 77% | NCCNC1=NC2=C(N1C)C=CC=C2 | C10H14N4
